2134-10-03 09:52:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the [** **]
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Overnight - stable, no change in O2 requirements. Steri strips applied
   to left eye.
   Subjectively breathing is better
   Chest pain - pleuritic/pressure-like L>R, EKG done.
   Remains on 60% high flow + 4 lpm nc O2
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2134-10-1**] 01:00 PM
   Levofloxacin - [**2134-10-3**] 07:45 AM
   Vancomycin - [**2134-10-3**] 08:07 AM
   Infusions:
   Other [**Year (4 digits) **] medications:
   Heparin Sodium (Prophylaxis) - [**2134-10-3**] 06:14 AM
   Other medications:
   LVF 750mg q48h, vanc, colace, flovent/albut/atrovent, diamox
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-3**] 09:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.2
C (97.2
   HR: 89 (87 - 104) bpm
   BP: 144/90(100) {111/69(83) - 152/93(107)} mmHg
   RR: 26 (24 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102 kg (admission): 102 kg
   Height: 60 Inch
             Total In:
                                                                  3,347 mL
                                                                    395 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  3,107 mL
                                                                    395 mL
   Blood products:
   Total out:
                                                                  1,360 mL
                                                                    410 mL
   Urine:
                                                                  1,360 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,987 mL
                                                                    -15 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL, lesion left eyelid
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), anterior squeeks, few
   crackles left>right
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.4 g/dL
   164 K/uL
   95 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.1 mEq/L
   19 mg/dL
   112 mEq/L
   142 mEq/L
   31.2 %
   6.0 K/uL
        [image002.jpg]
                            [**2134-10-1**]  12:14 PM
                            [**2134-10-1**]  01:06 PM
                            [**2134-10-1**]  11:00 PM
                            [**2134-10-2**]  04:05 AM
                            [**2134-10-3**]  05:37 AM
   WBC
   6.0
   6.0
   Hct
   31.9
   31.2
   Plt
   136
   164
   Cr
   0.8
   0.7
   TropT
   <0.01
   TCO2
   22
   21
   Glucose
   92
   95
   Other labs: PT / PTT / INR:13.7/34.2/1.2, CK / CKMB /
   Troponin-T://<0.01, ALT / AST:21/58, Alk Phos / T Bili:123/0.6,
   Differential-Neuts:88.4 %, Lymph:7.3 %, Mono:3.6 %, Eos:0.5 %, Lactic
   Acid:1.4 mmol/L, Albumin:3.6 g/dL, LDH:723 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Imaging: CXR - no siginificant change, elevated right hemidiaph
   (chronic)
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   I saw and examined the patient and was physically present with the [**Doctor Last Name **]
   team and agree with Dr[**Name (NI) 2221**] impression and plan. I would add the
   following:
   53 yr old MS, asthma, chronic pain, presented with fever, hypoxia,
   cough, sputum, altered MS. Admitted with pneumonia. Remains tenuous but
   with decreased FiO2 requirements. She is currently complaining of
   shortness of breath with slightly  more labored breathing. Will do
   trial of NPPV (BiPAP) mostly to decrease work of breathing. Continue
   same Abx for atypical pneumonia. D/c diamox. If she accutely worsens
   will likely intubate and broaden coverage for PCP.
   [**Name10 (NameIs) **] [**Name11 (NameIs) 232**]
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2134-10-1**] 11:26 AM
   20 Gauge - [**2134-10-1**] 11:26 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: [**Year (4 digits) **] consent signed Comments:
   Code status: Full code
   Disposition :[**Year (4 digits) **]
   Total time spent: 35 minutes
   Patient is critically ill

2134-10-04 07:45:00 Physician Resident Progress Note
Chief Complaint: SOB
   24 Hour Events:
 EKG - At [**2134-10-3**] 08:06 AM
 EKG - At [**2134-10-3**] 02:28 PM
 INVASIVE VENTILATION - START [**2134-10-3**] 09:25 PM
 ARTERIAL LINE - START [**2134-10-4**] 04:03 AM
   -Notified Dr. [**First Name8 (NamePattern2) 1806**] [**Last Name (NamePattern1) **] (neuro) by e-mail that the pt is here
   -Pt is stable on Acetazolamide at home so this was restarted
   -At approx 8pm, pt found without O2 mask on in resp distress. Placed
   back on mask then given a total of 2 mg Ativan and 2 mg morphine for
   incr WOB, distress without effect. Placed on BiPAP with gas 7.29/ 39
   /111/ 20 but pt still in distress and fighting BiPAP. Anaesthesia
   intubated. On assist control with fentanyl and versed gtt (needing incr
   amts- ?tolerance). Post extubation gas with resp acid 7.16/ 61 /346/ 23
   -Just prior to intubation, started on Methylprednisolone 60 Q 8 and
   given lasix 20 IVx1.
   - In am, EKG taken with some TWI but CE flat
   -Neuro status in pm prior to intubation stable- oriented x3 and freely
   moving all 4 extremities
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2134-10-1**] 01:00 PM
   Levofloxacin - [**2134-10-3**] 07:45 AM
   Vancomycin - [**2134-10-3**] 08:07 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Propofol - 7.5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-10-3**] 02:00 PM
   Lorazepam (Ativan) - [**2134-10-3**] 08:05 PM
   Morphine Sulfate - [**2134-10-3**] 08:15 PM
   Furosemide (Lasix) - [**2134-10-3**] 09:15 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: pt unable to answer ROS [**12-19**] sedation
   Flowsheet Data as of  [**2134-10-4**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 82 (82 - 137) bpm
   BP: 98/56(72) {98/56(72) - 107/68(82)} mmHg
   RR: 27 (19 - 40) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102 kg (admission): 102 kg
   Height: 60 Inch
             Total In:
                                                                    572 mL
                                                                    787 mL
   PO:
             TF:
   IVF:
                                                                    572 mL
                                                                    787 mL
   Blood products:
   Total out:
                                                                  1,510 mL
                                                                    255 mL
   Urine:
                                                                  1,510 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -938 mL
                                                                    532 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (400 - 450) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 33 cmH2O
   Plateau: 27 cmH2O
   Compliance: 20.5 cmH2O/mL
   SpO2: 93%
   ABG: 7.30/44/76.[**Numeric Identifier 433**]/21/-4
   Ve: 12.3 L/min
   PaO2 / FiO2: 152
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: pupils constricted
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal, Distant), (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: at bases r> l, Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   156 K/uL
   10.0 g/dL
   108 mg/dL
   0.9 mg/dL
   21 mEq/L
   4.3 mEq/L
   26 mg/dL
   113 mEq/L
   143 mEq/L
   30.1 %
   4.4 K/uL
        [image002.jpg]
                            [**2134-10-3**]  05:37 AM
                            [**2134-10-3**]  10:05 AM
                            [**2134-10-3**]  03:00 PM
                            [**2134-10-3**]  05:15 PM
                            [**2134-10-3**]  08:19 PM
                            [**2134-10-3**]  08:34 PM
                            [**2134-10-3**]  10:00 PM
                            [**2134-10-4**]  01:52 AM
                            [**2134-10-4**]  04:32 AM
                            [**2134-10-4**]  04:40 AM
   WBC
   6.0
   4.4
   Hct
   31.2
   30.1
   Plt
   164
   156
   Cr
   0.7
   0.8
   0.9
   TropT
   <0.01
   <0.01
   TCO2
   23
   22
   20
   23
   22
   23
   Glucose
   95
   123
   108
   Other labs: PT / PTT / INR:13.7/34.2/1.2, CK / CKMB /
   Troponin-T:80/6/<0.01, ALT / AST:21/58, Alk Phos / T Bili:123/0.6,
   Differential-Neuts:88.4 %, Lymph:7.3 %, Mono:3.6 %, Eos:0.5 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.6 g/dL, LDH:723 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   53 y.o woman with MS, Asthma, Chronic Pain p/w SOB/cough/ fever s/p
   fall, likely atypical PNA
   .
   # Acute Respiratory Distress: Likely atypical PNA given radiographic
   findings. However, given lack of improvement on current Abx of Vanco
   and [**Last Name (LF) 2252**], [**First Name3 (LF) 116**] add back Zosyn for Pseudomonas coverage.  Cause of acute
   change in resp status with bronchospasm last night could have been [**12-19**]
   mucous plugging in setting of worstening PNA, PE, pulmonary edema [**12-19**]
   cardiac event or asthma.
   - cycle CE and rpt EKG to ROMI
   - Consider CTA today
   -Add Zosyn to [**Month/Day (2) 2252**]/Vanco for abx
   -Send sputum culture
   - Trial of PS today after sedation lightened.
   - Transitioned off versed currently and working to decr fentanylas
   tolerated and incr propofol if necessary
   -  f/u blood, urine and sputum cultures.
   - Trend WBC count fever curve.
   - will keep steroid for today but plan for rapid taper unless neuro
   thinks steroids are necessary for MS
   - Aggressive chest PT
   - Nebs prn
   - Serial CXR.
   -Consider diuresis PRN- put out good urine o/n to furosemide
   .
   # S/P Fall: Etiology unclear. Pt remains bed-bound. Eye care provided
   overnight for wound.
   - Orthostatics and further work-up when more stable
   - Cont IVF prn and start TF today .
   .
   # Altered mental status: Cleared prior to intubation but now minimally
   responsive on fentanyl and propofol.
   -monitor neuro exam.
   -w/u and tx for infection.
   .
   #Multiple Sclerosis
 Stable symptoms.
   - Consult neuro today re med recommendations
   - Cont  baclofen, lamotrigine, betaseron. Will d/w neuro need for
   amantidine
   -D/c acetazolamide as may be causing pt
s current non-AG met acidosis.
   (pt takes this at home for arm swelling caused by lamotrigine)
   .
   # Chronic Pain
 On fentanyl, propofol for now and very sedated
   .
   # Depression
 Will consider restarting celexa.
   ICU Care
   Nutrition: NPO for now- will start TF today as extubation unlikely
   until at least tomorrow
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-10-3**] 11:00 PM
   Arterial Line - [**2134-10-4**] 04:03 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2134-10-04 09:15:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, asthma, multiple sclerosis,
   pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient pulled off her oxygen last night. Patient's work of breathing
   increased. She was given ativan and morphine and put on BiPAP.
   Tachypnea persisted. ABG not changed that much. Patient was intubated.
   Patient was asynchronous with vent and has been given large amounts of
   sedation.
   Given lasix and IV steroids. Patient had become very bronchospastic by
   exam.
   Afebrile.
   24 Hour Events:
 EKG - At [**2134-10-3**] 08:06 AM
 EKG - At [**2134-10-3**] 02:28 PM
 INVASIVE VENTILATION - START [**2134-10-3**] 09:25 PM
 ARTERIAL LINE - START [**2134-10-4**] 04:03 AM
   History obtained from Medical records
   Patient unable to provide history: Intubated, sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2134-10-1**] 01:00 PM
   Levofloxacin - [**2134-10-3**] 07:45 AM
   Vancomycin - [**2134-10-4**] 08:00 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-10-3**] 02:00 PM
   Lorazepam (Ativan) - [**2134-10-3**] 08:05 PM
   Morphine Sulfate - [**2134-10-3**] 08:15 PM
   Furosemide (Lasix) - [**2134-10-3**] 09:15 PM
   Famotidine (Pepcid) - [**2134-10-4**] 08:00 AM
   Other medications:
   PPI, colace, baclofen, flovent, lomictil, diamox, beta [**Doctor Last Name 2143**],
   solumedrol, atrovent, albuterol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-4**] 09:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98.1
   HR: 77 (77 - 137) bpm
   BP: 100/56(72) {98/56(72) - 107/68(82)} mmHg
   RR: 28 (19 - 40) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102 kg (admission): 102 kg
   Height: 60 Inch
             Total In:
                                                                    572 mL
                                                                  1,098 mL
   PO:
             TF:
   IVF:
                                                                    572 mL
                                                                  1,038 mL
   Blood products:
   Total out:
                                                                  1,510 mL
                                                                    355 mL
   Urine:
                                                                  1,510 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -938 mL
                                                                    743 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (400 - 450) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   Compliance: 26.5 cmH2O/mL
   SpO2: 97%
   ABG: 7.30/44/76.[**Numeric Identifier 433**]/21/-4
   Ve: 11.7 L/min
   PaO2 / FiO2: 152
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic, Sedated
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : , Diminished:
   Slightly at bases, No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement, Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   156 K/uL
   108 mg/dL
   0.9 mg/dL
   21 mEq/L
   4.3 mEq/L
   26 mg/dL
   113 mEq/L
   143 mEq/L
   30.1 %
   4.4 K/uL
        [image002.jpg]
                            [**2134-10-3**]  05:37 AM
                            [**2134-10-3**]  10:05 AM
                            [**2134-10-3**]  03:00 PM
                            [**2134-10-3**]  05:15 PM
                            [**2134-10-3**]  08:19 PM
                            [**2134-10-3**]  08:34 PM
                            [**2134-10-3**]  10:00 PM
                            [**2134-10-4**]  01:52 AM
                            [**2134-10-4**]  04:32 AM
                            [**2134-10-4**]  04:40 AM
   WBC
   6.0
   4.4
   Hct
   31.2
   30.1
   Plt
   164
   156
   Cr
   0.7
   0.8
   0.9
   TropT
   <0.01
   <0.01
   TCO2
   23
   22
   20
   23
   22
   23
   Glucose
   95
   123
   108
   Other labs: PT / PTT / INR:13.7/34.2/1.2, CK / CKMB /
   Troponin-T:80/6/<0.01, ALT / AST:21/58, Alk Phos / T Bili:123/0.6,
   Differential-Neuts:88.4 %, Lymph:7.3 %, Mono:3.6 %, Eos:0.5 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.6 g/dL, LDH:723 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   CXR: last night, diffuse alveolar infiltrates; this AM, slight clearing
   of apical infiltrates.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   PNEUMONIA
   ASTHMA
   MULTIPLE SCLEROSIS
   ANEMIA
   ACIDOSIS
   Patient with fairly acute worsening of respiratory status last night
   for unclear reasons. Patient described as being very wheezy with
   moderate secretions; now has clear lung fields, the difference between
   peak and plateau pressures is only 3-4 cm H2O indicating  normal airway
   resistance. [**Month (only) 11**] have had mucus plug; alternatively may have had acute
   pulmonary edema due to ischemia. Acute pulmonary embolism would be
   another consideration. Although she has undelrying asthma, the acute
   change in the hospital and the rapid improvement seems unusual for
   asthma. I would check a BNP, again assess for ischemia, and consider
   CTA both to assess for worsening infiltrates and to exclude pulmonary
   embolism. Patient on high dose steroids; we can begin a taper today.
   Would reduce sedation today and switch to PSV; some of agitation
   yesterday on vent may have reflected the fact that we were not giving
   her the tidal volume or inspiratory flow that she wanted.
   Patient continues on broad spectrum antibiotics. New sputum cultures
   sent.
   Patient with mixed respiratory and metabolic acidosis; metabolic
   acidosis probably reflects effect of diamox. Would stop that medication
   since it wil interfere with our ability to extubate her.
   Hct stable. No evidence of bleeding. Not at transfusion threshold.
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2134-10-3**] 11:00 PM
   Arterial Line - [**2134-10-4**] 04:03 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2134-10-05 07:28:00 Physician Resident Progress Note
Chief Complaint: SOB
   24 Hour Events:
   - Troponin positive -> started on ASA and BB
   - Got repeat CTA to see if decompensation was PE -> no PE, positive for
   aspiration PNA per radiologist (WET READ).
   - d/c'ed acetazolamide
   - Pulled back ET tube
   - Tube feeds started
   - cultures with NGTD- sputum sent overnight
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2134-10-4**] 04:00 PM
   Vancomycin - [**2134-10-4**] 08:02 PM
   Levofloxacin - [**2134-10-4**] 09:59 PM
   Piperacillin/Tazobactam (Zosyn) - [**2134-10-5**] 12:28 AM
   Infusions:
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2134-10-4**] 08:00 AM
   Furosemide (Lasix) - [**2134-10-4**] 06:15 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: not able to obtain as pt sedated
   Flowsheet Data as of  [**2134-10-5**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98.1
   HR: 69 (65 - 77) bpm
   BP: 112/63(80) {91/47(62) - 119/72(91)} mmHg
   RR: 24 (21 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102 kg (admission): 102 kg
   Height: 60 Inch
             Total In:
                                                                  2,594 mL
                                                                    640 mL
   PO:
             TF:
                                                                    215 mL
                                                                    227 mL
   IVF:
                                                                  2,269 mL
                                                                    413 mL
   Blood products:
   Total out:
                                                                  2,170 mL
                                                                  1,570 mL
   Urine:
                                                                  2,170 mL
                                                                  1,570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    424 mL
                                                                   -930 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 550) mL
   Vt (Spontaneous): 550 (550 - 550) mL
   RR (Set): 24
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 75
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 95%
   ABG: 7.33/39/122/25/-4
   Ve: 10.1 L/min
   PaO2 / FiO2: 305
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   diffusely in both lungs )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Sedated,
   Tone: Normal
   Labs / Radiology
   173 K/uL
   9.5 g/dL
   134 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.8 mEq/L
   30 mg/dL
   109 mEq/L
   145 mEq/L
   28.5 %
   4.3 K/uL
        [image002.jpg]
                            [**2134-10-3**]  05:15 PM
                            [**2134-10-3**]  08:19 PM
                            [**2134-10-3**]  08:34 PM
                            [**2134-10-3**]  10:00 PM
                            [**2134-10-4**]  01:52 AM
                            [**2134-10-4**]  04:32 AM
                            [**2134-10-4**]  04:40 AM
                            [**2134-10-4**]  12:54 PM
                            [**2134-10-4**]  05:39 PM
                            [**2134-10-5**]  03:26 AM
   WBC
   4.4
   4.3
   Hct
   30.1
   28.5
   Plt
   156
   173
   Cr
   0.8
   0.9
   0.8
   0.9
   TropT
   0.13
   0.02
   TCO2
   22
   20
   23
   22
   23
   21
   Glucose
   123
   108
   127
   134
   Other labs: PT / PTT / INR:13.3/31.1/1.1, CK / CKMB /
   Troponin-T:64/7/0.02, ALT / AST:21/58, Alk Phos / T Bili:123/0.6,
   Differential-Neuts:88.4 %, Lymph:7.3 %, Mono:3.6 %, Eos:0.5 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.6 g/dL, LDH:723 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.7 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 PNEUMONIA, OTHER
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   53 y.o woman with MS, Asthma, Chronic Pain p/w SOB/cough/ fever s/p
   fall, likely atypical PNA
   .
   # Acute Respiratory Distress: Likely atypical PNA given radiographic
   findings. However, given lack of improvement on current Abx of Vanco
   and [**Last Name (LF) 2252**], [**First Name3 (LF) 116**] add back Zosyn for Pseudomonas coverage.  Cause of acute
   change in resp status with bronchospasm last night could have been [**12-19**]
   mucous plugging in setting of worstening PNA, PE, pulmonary edema [**12-19**]
   cardiac event or asthma.
   - cycle CE and rpt EKG to ROMI
   - Consider CTA today
   -Add Zosyn to [**Month/Day (2) 2252**]/Vanco for abx
   -Send sputum culture
   - Trial of PS today after sedation lightened.
   - Transitioned off versed currently and working to decr fentanylas
   tolerated and incr propofol if necessary
   -  f/u blood, urine and sputum cultures.
   - Trend WBC count fever curve.
   - will keep steroid for today but plan for rapid taper unless neuro
   thinks steroids are necessary for MS
   - Aggressive chest PT
   - Nebs prn
   - Serial CXR.
   -Consider diuresis PRN- put out good urine o/n to furosemide
   .
   # S/P Fall: Etiology unclear. Pt remains bed-bound. Eye care provided
   overnight for wound.
   - Orthostatics and further work-up when more stable
   - Cont IVF prn and start TF today .
   .
   # Altered mental status: Cleared prior to intubation but now minimally
   responsive on fentanyl and propofol.
   -monitor neuro exam.
   -w/u and tx for infection.
   .
   #Multiple Sclerosis
 Stable symptoms.
   - Consult neuro today re med recommendations
   - Cont  baclofen, lamotrigine, betaseron. Will d/w neuro need for
   amantidine
   -D/c acetazolamide as may be causing pt
s current non-AG met acidosis.
   (pt takes this at home for arm swelling caused by lamotrigine)
   .
   # Chronic Pain
 On fentanyl, propofol for now and very sedated
   .
   # Depression
 Will consider restarting celexa.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2134-10-5**] 12:58 AM 35 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2134-10-3**] 11:00 PM
   Arterial Line - [**2134-10-4**] 04:03 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2134-10-05 12:16:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, asthma, multiple sclerosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   CTA - prelmininary read is negative for PE. Continues on ventilator on
   assist control with good oxygenation on 40% oxygen.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2134-10-4**] 04:00 PM
   Levofloxacin - [**2134-10-4**] 09:59 PM
   Vancomycin - [**2134-10-5**] 07:26 AM
   Piperacillin/Tazobactam (Zosyn) - [**2134-10-5**] 08:31 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2134-10-4**] 06:15 PM
   Famotidine (Pepcid) - [**2134-10-5**] 08:00 AM
   Other medications:
   heparin sc, colace, baclofen, lomictil, beta [**Doctor Last Name 2143**], chlorhexidine,
   albuterol, atrovent, solumedrol, lopressor, ASA, celexa
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-5**] 12:16 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 35.8
C (96.5
   HR: 65 (65 - 72) bpm
   BP: 109/59(77) {91/47(62) - 119/72(91)} mmHg
   RR: 24 (21 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102 kg (admission): 102 kg
   Height: 60 Inch
             Total In:
                                                                  2,594 mL
                                                                  1,251 mL
   PO:
             TF:
                                                                    215 mL
                                                                    285 mL
   IVF:
                                                                  2,269 mL
                                                                    931 mL
   Blood products:
   Total out:
                                                                  2,170 mL
                                                                  2,040 mL
   Urine:
                                                                  2,170 mL
                                                                  2,040 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    424 mL
                                                                   -789 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 550) mL
   Vt (Spontaneous): 550 (550 - 550) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 75
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 95%
   ABG: 7.40/44/75/25/1
   Ve: 10 L/min
   PaO2 / FiO2: 188
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.5 g/dL
   173 K/uL
   134 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.8 mEq/L
   30 mg/dL
   109 mEq/L
   145 mEq/L
   28.5 %
   4.3 K/uL
        [image002.jpg]
                            [**2134-10-3**]  08:19 PM
                            [**2134-10-3**]  08:34 PM
                            [**2134-10-3**]  10:00 PM
                            [**2134-10-4**]  01:52 AM
                            [**2134-10-4**]  04:32 AM
                            [**2134-10-4**]  04:40 AM
                            [**2134-10-4**]  12:54 PM
                            [**2134-10-4**]  05:39 PM
                            [**2134-10-5**]  03:26 AM
                            [**2134-10-5**]  10:04 AM
   WBC
   4.4
   4.3
   Hct
   30.1
   28.5
   Plt
   156
   173
   Cr
   0.8
   0.9
   0.8
   0.9
   TropT
   0.13
   0.02
   TCO2
   20
   23
   22
   23
   21
   28
   Glucose
   123
   108
   127
   134
   Other labs: PT / PTT / INR:13.3/31.1/1.1, CK / CKMB /
   Troponin-T:64/7/0.02, ALT / AST:21/58, Alk Phos / T Bili:123/0.6,
   Differential-Neuts:88.4 %, Lymph:7.3 %, Mono:3.6 %, Eos:0.5 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.6 g/dL, LDH:723 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.7 mg/dL, PO4:2.8 mg/dL
   Imaging: CTA: no PE. Extensive pneumonia right greater than left lung
   with air bronchograms at right base. Evidence of tracheomalacia
   Assessment and Plan
 PNEUMONIA, OTHER
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   TRACHEOMALACIA
   ANEMIA
   CT scan shows extensive bilateral infiltrates consistent with
   pneumonia. With associated tracheomalacia, it may be more difficult for
   her to clear secretions. Will consult IP re: possibility of tracheal
   stent. Wheezing not an issue now; will quickly taper steroids.
   No definitive organism identified. Continues on broad spectrum
   antibiotics.
   Patient remains agitated when sedation lightened. Will try on PSV. If
   this does not alter agitation, will consult neuro/psych re: other
   alternative agents, eg., Haldol.
   Hct stable. No evidence of bleeding. Not at transfusion threshold.
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2134-10-3**] 11:00 PM
   Arterial Line - [**2134-10-4**] 04:03 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35
   Patient is critically ill

2134-10-06 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Transitioned from AC to PS
   - CT revealing atypical PNA and tracheomalacia
   - IP: No stent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2134-10-4**] 04:00 PM
   Vancomycin - [**2134-10-5**] 08:00 PM
   Levofloxacin - [**2134-10-5**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2134-10-6**] 01:09 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-10-5**] 10:01 PM
   Famotidine (Pepcid) - [**2134-10-6**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-6**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98.1
   HR: 69 (62 - 85) bpm
   BP: 95/40(57) {92/40(57) - 132/75(97)} mmHg
   RR: 15 (8 - 26) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102 kg (admission): 102 kg
   Height: 60 Inch
             Total In:
                                                                  3,102 mL
                                                                    760 mL
   PO:
             TF:
                                                                    817 mL
                                                                    237 mL
   IVF:
                                                                  2,165 mL
                                                                    454 mL
   Blood products:
   Total out:
                                                                  2,757 mL
                                                                  1,410 mL
   Urine:
                                                                  2,757 mL
                                                                  1,410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    345 mL
                                                                   -650 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV
   Vt (Set): 500 (450 - 500) mL
   Vt (Spontaneous): 759 (358 - 851) mL
   PS : 0 cmH2O
   RR (Set): 12
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 30
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 93%
   ABG: 7.34/51/104/30/0
   Ve: 7.3 L/min
   PaO2 / FiO2: 260
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   215 K/uL
   9.8 g/dL
   97 mg/dL
   0.9 mg/dL
   30 mEq/L
   3.0 mEq/L
   34 mg/dL
   105 mEq/L
   144 mEq/L
   30.0 %
   4.7 K/uL
        [image002.jpg]
                            [**2134-10-4**]  01:52 AM
                            [**2134-10-4**]  04:32 AM
                            [**2134-10-4**]  04:40 AM
                            [**2134-10-4**]  12:54 PM
                            [**2134-10-4**]  05:39 PM
                            [**2134-10-5**]  03:26 AM
                            [**2134-10-5**]  10:04 AM
                            [**2134-10-5**]  01:27 PM
                            [**2134-10-5**]  09:32 PM
                            [**2134-10-6**]  04:00 AM
   WBC
   4.4
   4.3
   4.7
   Hct
   30.1
   28.5
   30.0
   Plt
   156
   173
   215
   Cr
   0.9
   0.8
   0.9
   0.9
   TropT
   0.13
   0.02
   TCO2
   22
   23
   21
   28
   26
   29
   Glucose
   108
   127
   134
   97
   Other labs: PT / PTT / INR:13.3/31.1/1.1, CK / CKMB /
   Troponin-T:64/7/0.02, ALT / AST:21/58, Alk Phos / T Bili:123/0.6,
   Differential-Neuts:88.4 %, Lymph:7.3 %, Mono:3.6 %, Eos:0.5 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.6 g/dL, LDH:723 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.7 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 PNEUMONIA, OTHER
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   53 y.o woman with MS, Asthma, Chronic Pain p/w SOB/cough/ fever s/p
   fall, likely atypical PNA
   .
   # Acute Respiratory Distress: Likely atypical PNA given radiographic
   findings. CTA yesterday without PE but with multilobar PNA.  Currently
   on Vanco/zosyn/levo.  Stable on A/C. Attempt to decr sedation and put
   pt on PS today resulted in incr pt discomfort and agitation in bed. CE
   incr yest to 0.13 but down to 0.02 later in day.
   -F/u sputum, blood and urine cultures
   -cont vanco/zosyn/flagyl
   - con propofol for sedation
   - Trend WBC count fever curve.
   - d/c steroids today
   - Aggressive chest PT
   - Nebs prn
   - Serial CXR.
   -Consider diuresis PRN- put out good urine in past to furosemide
   .
   # Altered mental status: Cleared prior to intubation but now minimally
   responsive on propofol.
   -monitor neuro exam.
   -Consider haldol prn for agitation. Will d/w neuro.
   -w/u and tx for infection.
   .
   #Multiple Sclerosis
 Stable symptoms. Neuro consulted yesterday and
   restarted on home meds.
   - Cont  baclofen, lamotrigine, betaseron.
   .
   # Chronic Pain
 On  propofol for now and sedated
   .
   # Depression
 Will consider restarting celexa.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2134-10-6**] 06:05 AM 35 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-10-3**] 11:00 PM
   Arterial Line - [**2134-10-4**] 04:03 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2134-10-06 11:05:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, asthma, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient was on PSV through much of the night. Subsequently required
   more propofol; respiratory rate dropped and patient switched back to
   assist control. Oxygenation has been good.
   Agitation remains a problem.
   WBC and hct stable.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2134-10-4**] 04:00 PM
   Levofloxacin - [**2134-10-5**] 10:00 PM
   Vancomycin - [**2134-10-6**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2134-10-6**] 08:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-10-5**] 10:01 PM
   Famotidine (Pepcid) - [**2134-10-6**] 06:00 AM
   Other medications:
   Colace, baclofen, chlorhexidine, atrovent, albtuerol, beta [**Doctor Last Name 2143**]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-6**] 11:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 66 (62 - 85) bpm
   BP: 98/49(65) {92/40(57) - 132/75(97)} mmHg
   RR: 14 (8 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102 kg (admission): 102 kg
   Height: 60 Inch
             Total In:
                                                                  3,102 mL
                                                                  1,338 mL
   PO:
             TF:
                                                                    817 mL
                                                                    374 mL
   IVF:
                                                                  2,165 mL
                                                                    894 mL
   Blood products:
   Total out:
                                                                  2,757 mL
                                                                  1,460 mL
   Urine:
                                                                  2,757 mL
                                                                  1,460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    345 mL
                                                                   -122 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (450 - 500) mL
   Vt (Spontaneous): 759 (358 - 851) mL
   PS : 0 cmH2O
   RR (Set): 12
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 30
   PIP: 28 cmH2O
   Plateau: 25 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 95%
   ABG: 7.34/51/104/30/0
   Ve: 6.7 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anteriorally and laterally, Crackles : Rare, No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing, Edema
   of thighs
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   215 K/uL
   97 mg/dL
   0.9 mg/dL
   30 mEq/L
   3.0 mEq/L
   34 mg/dL
   105 mEq/L
   144 mEq/L
   30.0 %
   4.7 K/uL
        [image002.jpg]
                            [**2134-10-4**]  01:52 AM
                            [**2134-10-4**]  04:32 AM
                            [**2134-10-4**]  04:40 AM
                            [**2134-10-4**]  12:54 PM
                            [**2134-10-4**]  05:39 PM
                            [**2134-10-5**]  03:26 AM
                            [**2134-10-5**]  10:04 AM
                            [**2134-10-5**]  01:27 PM
                            [**2134-10-5**]  09:32 PM
                            [**2134-10-6**]  04:00 AM
   WBC
   4.4
   4.3
   4.7
   Hct
   30.1
   28.5
   30.0
   Plt
   156
   173
   215
   Cr
   0.9
   0.8
   0.9
   0.9
   TropT
   0.13
   0.02
   TCO2
   22
   23
   21
   28
   26
   29
   Glucose
   108
   127
   134
   97
   Other labs: PT / PTT / INR:12.7/31.8/1.1, CK / CKMB /
   Troponin-T:64/7/0.02, ALT / AST:21/58, Alk Phos / T Bili:123/0.6,
   Differential-Neuts:88.4 %, Lymph:7.3 %, Mono:3.6 %, Eos:0.5 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.6 g/dL, LDH:723 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.7 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 PNEUMONIA, OTHER
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   PNEUMONIA
   ANEMIA
   Oxygenation is good. Patient has moderate secretions from ETT. Still
   having difficulty finding right balance of pain meds and sedation to
   enable her to be more awake and cooperative with ventilator and other
   care. Will increase Haldol today. Patient treated with chronic
   narcotics at home; will continue to need some narcotics. Continues on
   antibiotics.
   Hct stable. No evidence of bleeding. Not at transfusion threshold.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2134-10-6**] 06:05 AM 35 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-10-3**] 11:00 PM
   Arterial Line - [**2134-10-4**] 04:03 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2134-10-07 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Extubated in evening uneventfully- post-extubation gas 7.45/ 44/ 130/
   32
   - Did have agitation s/p extubation treated with Morphine for total of
   4mg in 4 hrs s/p extubation and 2 Ativan.
   -Per family, pt using only 40mg Oxycontin [**Hospital1 **] (converts to 1.6 mg IV
   morphine/hr) and no benzos PTA however she was apparently seeing people
   watching her from her porch and called the police on these
   hallucinatory people at least once.
   -Plan for agitation- try morphine 2mg first then could try haldol.
   - Neuro agrees Haldol is ok in this pt and to treat agitation as you
   would with any other pt
   - Cx with NGTD
   - U/A ordered for pt's dark urine
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2134-10-4**] 04:00 PM
   Vancomycin - [**2134-10-6**] 08:00 PM
   Levofloxacin - [**2134-10-6**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2134-10-7**] 12:00 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2134-10-6**] 12:17 PM
   Lorazepam (Ativan) - [**2134-10-6**] 02:55 PM
   Heparin Sodium (Prophylaxis) - [**2134-10-7**] 06:00 AM
   Morphine Sulfate - [**2134-10-7**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-7**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.3
C (99.2
   HR: 76 (66 - 106) bpm
   BP: 133/76(99) {94/45(61) - 160/93(119)} mmHg
   RR: 11 (11 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102 kg (admission): 102 kg
   Height: 60 Inch
             Total In:
                                                                  2,286 mL
                                                                  1,547 mL
   PO:
             100 mL
   TF:
                                                                    463 mL
   IVF:
                                                                  1,753 mL
                                                                  1,447 mL
   Blood products:
   Total out:
                                                                  3,155 mL
                                                                  1,585 mL
   Urine:
                                                                  3,155 mL
                                                                  1,585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -869 mL
                                                                    -38 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 348 (348 - 348) mL
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 59
   SpO2: 96%
   ABG: 7.43/44/91/29/3
   Ve: 9.9 L/min
   Physical Examination
   Gen: NAD, asking to get out of here, AOx2
   CV: RRR no M/R/G
   Pulm: fine crackles throughout
   Abd: soft ND, BS+
   Extr: No edema, pulse 2+ symmetric
   Labs / Radiology
   251 K/uL
   10.7 g/dL
   80 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.3 mEq/L
   25 mg/dL
   109 mEq/L
   147 mEq/L
   31.5 %
   5.4 K/uL
        [image002.jpg]
                            [**2134-10-5**]  03:26 AM
                            [**2134-10-5**]  10:04 AM
                            [**2134-10-5**]  01:27 PM
                            [**2134-10-5**]  09:32 PM
                            [**2134-10-6**]  04:00 AM
                            [**2134-10-6**]  01:17 PM
                            [**2134-10-6**]  06:08 PM
                            [**2134-10-6**]  08:08 PM
                            [**2134-10-6**]  11:53 PM
                            [**2134-10-7**]  06:25 AM
   WBC
   4.3
   4.7
   5.3
   5.4
   Hct
   28.5
   30.0
   29.8
   31.5
   Plt
   173
   215
   221
   251
   Cr
   0.9
   0.9
   0.8
   TCO2
   28
   26
   29
   32
   32
   30
   Glucose
   134
   97
   80
   Other labs: PT / PTT / INR:12.7/31.8/1.1, CK / CKMB /
   Troponin-T:64/7/0.02, ALT / AST:17/25, Alk Phos / T Bili:113/0.5,
   Differential-Neuts:88.4 %, Lymph:7.3 %, Mono:3.6 %, Eos:0.5 %, Lactic
   Acid:0.6 mmol/L, Albumin:3.6 g/dL, LDH:334 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 PNEUMONIA, OTHER
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   53 y.o woman with MS, Asthma, Chronic Pain p/w SOB/cough/ fever s/p
   fall, likely atypical PNA
   .
   # Acute Respiratory Distress: Likely atypical PNA given radiographic
   findings on X-ray and CT. Attempted to decr sedation and put pt on PS
   resulted in incr pt discomfort and agitation in bed. Will try haldol
   today.
   -F/u sputum, blood and urine cultures
   -cont vanco/zosyn currently day 6 of 10 day course
   - PICC line for Abx
   - Continue morphine as outpatient dose of oxycontin was 80mg per day
   which converts to 1.6mg morphine per hr.
   - Try haldol for agitation
   - Trend WBC count fever curve.
   - Nebs prn
   - keep negative today
   .
   # Altered mental status: Remains AOx2 and mildly agitated.  Appears to
   answer ?'s appropriately, but still making odd statements.
   - monitor neuro exam.
   - Attempt haldol prn for agitation. Will d/w neuro.
   - tx for infection.
   .
   #Multiple Sclerosis
 Stable symptoms. Neuro consulted and restarted on
   home meds.
   - Cont  baclofen, lamotrigine, betaseron.
   .
   # Chronic Pain
 On  morphine for now and sedated
   .
   # Depression
 continue citalopram.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-10-3**] 11:00 PM
   Arterial Line - [**2134-10-4**] 04:03 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2134-10-07 12:49:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, asthma, pneumonia, multiple
   sclerosis, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Extubated yesterday. Mild agitation post extubation that responded to
   morphine.
   Fluid balance negative for the day.
   Mental status improving.
   Hct stable.
   No positive cultures.
   24 Hour Events:
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2134-10-4**] 04:00 PM
   Levofloxacin - [**2134-10-6**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2134-10-7**] 08:00 AM
   Vancomycin - [**2134-10-7**] 08:30 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2134-10-6**] 02:55 PM
   Heparin Sodium (Prophylaxis) - [**2134-10-7**] 06:00 AM
   Morphine Sulfate - [**2134-10-7**] 08:34 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-7**] 12:48 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.6
   HR: 83 (76 - 106) bpm
   BP: 166/89(117) {107/54(71) - 166/93(119)} mmHg
   RR: 14 (11 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102 kg (admission): 102 kg
   Height: 60 Inch
             Total In:
                                                                  2,286 mL
                                                                  2,071 mL
   PO:
             270 mL
   TF:
                                                                    463 mL
   IVF:
                                                                  1,753 mL
                                                                  1,801 mL
   Blood products:
   Total out:
                                                                  3,155 mL
                                                                  2,715 mL
   Urine:
                                                                  3,155 mL
                                                                  2,715 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -869 mL
                                                                   -644 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.43/44/91/29/3
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : Coarse crackles, No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Not assessed,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   251 K/uL
   125 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.6 mEq/L
   15 mg/dL
   103 mEq/L
   139 mEq/L
   31.5 %
   5.4 K/uL
        [image002.jpg]
                            [**2134-10-5**]  03:26 AM
                            [**2134-10-5**]  10:04 AM
                            [**2134-10-5**]  01:27 PM
                            [**2134-10-5**]  09:32 PM
                            [**2134-10-6**]  04:00 AM
                            [**2134-10-6**]  01:17 PM
                            [**2134-10-6**]  06:08 PM
                            [**2134-10-6**]  08:08 PM
                            [**2134-10-6**]  11:53 PM
                            [**2134-10-7**]  06:25 AM
   WBC
   4.3
   4.7
   5.3
   5.4
   Hct
   28.5
   30.0
   29.8
   31.5
   Plt
   173
   215
   221
   251
   Cr
   0.9
   0.9
   0.8
   0.8
   TCO2
   28
   26
   29
   32
   32
   30
   Glucose
   134
   97
   80
   125
   Other labs: PT / PTT / INR:13.8/33.4/1.2, CK / CKMB /
   Troponin-T:64/7/0.02, ALT / AST:17/25, Alk Phos / T Bili:113/0.5,
   Differential-Neuts:88.4 %, Lymph:7.3 %, Mono:3.6 %, Eos:0.5 %, Lactic
   Acid:0.6 mmol/L, Albumin:3.6 g/dL, LDH:334 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.2 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
 PNEUMONIA, OTHER
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   PNEUMONIA
   ANEMIA
   Patient doing well post extubation. Oxygenation excellent on minimal
   supplemental oxygen. Continues to have abnormal chest exam with some
   features that suggest bronchiolitis. Cultures have not revealed any
   specific organisms. Complete course of antibiotics.
   Hct stable. No evidence of bleeding. Not at transfusion threshold.
   Mental status greatly improved consistent with a delirium from her
   infection.
   ICU Care
   Nutrition: Oral
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-10-3**] 11:00 PM
   Arterial Line - [**2134-10-4**] 04:03 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes

2134-10-08 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - d/c'd a-line
   - called out, no bed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2134-10-6**] 10:00 PM
   Vancomycin - [**2134-10-7**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2134-10-8**] 12:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2134-10-8**] 04:00 AM
   Heparin Sodium (Prophylaxis) - [**2134-10-8**] 05:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-8**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.7
C (98
   HR: 79 (70 - 89) bpm
   BP: 123/72(85) {111/66(79) - 145/86(98)} mmHg
   RR: 20 (11 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102 kg (admission): 102 kg
   Height: 60 Inch
             Total In:
                                                                  2,935 mL
                                                                    460 mL
   PO:
                                                                    750 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  2,185 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  3,445 mL
                                                                    900 mL
   Urine:
                                                                  3,445 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -510 mL
                                                                   -440 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///30/
   Physical Examination
   Gen: NAD, asking to get out of here, AOx2
   CV: RRR no M/R/G
   Pulm: fine crackles throughout
   Abd: soft ND, BS+
   Extr: No edema, pulse 2+ symmetric
   Labs / Radiology
   276 K/uL
   12.2 g/dL
   105 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.0 mEq/L
   11 mg/dL
   101 mEq/L
   137 mEq/L
   37.3 %
   5.0 K/uL
        [image002.jpg]
                            [**2134-10-5**]  10:04 AM
                            [**2134-10-5**]  01:27 PM
                            [**2134-10-5**]  09:32 PM
                            [**2134-10-6**]  04:00 AM
                            [**2134-10-6**]  01:17 PM
                            [**2134-10-6**]  06:08 PM
                            [**2134-10-6**]  08:08 PM
                            [**2134-10-6**]  11:53 PM
                            [**2134-10-7**]  06:25 AM
                            [**2134-10-8**]  04:14 AM
   WBC
   4.7
   5.3
   5.4
   5.0
   Hct
   30.0
   29.8
   31.5
   37.3
   Plt
   [**Telephone/Fax (3) 2336**]76
   Cr
   0.9
   0.8
   0.8
   0.7
   TCO2
   28
   26
   29
   32
   32
   30
   Glucose
   97
   80
   125
   105
   Other labs: PT / PTT / INR:13.6/35.2/1.2, CK / CKMB /
   Troponin-T:64/7/0.02, ALT / AST:17/25, Alk Phos / T Bili:113/0.5,
   Differential-Neuts:72.9 %, Lymph:16.1 %, Mono:6.7 %, Eos:3.7 %, Lactic
   Acid:0.6 mmol/L, Albumin:3.6 g/dL, LDH:334 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.6 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   53 y.o woman with MS, Asthma, Chronic Pain p/w SOB/cough/ fever s/p
   fall, likely atypical PNA
   .
   # Acute Respiratory Distress: Likely atypical PNA given radiographic
   findings on X-ray and CT. Attempted to decr sedation and put pt on PS
   resulted in incr pt discomfort and agitation in bed. Will try haldol
   today.
   -F/u sputum, blood and urine cultures
   -cont vanco/zosyn currently day 6 of 10 day course
   - PICC line for Abx
   - Continue morphine as outpatient dose of oxycontin was 80mg per day
   which converts to 1.6mg morphine per hr.
   - Try haldol for agitation
   - Trend WBC count fever curve.
   - Nebs prn
   - keep negative today
   .
   # Altered mental status: Remains AOx2 and mildly agitated.  Appears to
   answer ?'s appropriately, but still making odd statements.
   - monitor neuro exam.
   - Attempt haldol prn for agitation. Will d/w neuro.
   - tx for infection.
   .
   # Multiple Sclerosis
 Stable symptoms. Neuro consulted and restarted
   on home meds.
   - Cont  baclofen, lamotrigine, betaseron.
   .
   # Chronic Pain
 On  morphine for now and sedated
   .
   # Depression
 continue citalopram.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-10-3**] 09:37 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Transfer to floor

2134-10-08 12:15:00 Physician Attending Progress Note
Chief Complaint: Pneumonia, respiratory failure, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Diet advanced yesterday.
   Tmax 100.5.
   Oxygen stable off ventilator.
   Hct up.
   24 Hour Events:
 CALLED OUT
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2134-10-6**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2134-10-8**] 07:54 AM
   Vancomycin - [**2134-10-8**] 07:55 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2134-10-8**] 04:00 AM
   Heparin Sodium (Prophylaxis) - [**2134-10-8**] 05:56 AM
   Other medications:
   lomictil, beta [**Doctor Last Name 2143**], lopressor, asa, citalopram, oxycodone, flovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-8**] 12:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.9
C (98.4
   HR: 77 (70 - 89) bpm
   BP: 111/64(74) {111/64(74) - 145/86(98)} mmHg
   RR: 19 (13 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102 kg (admission): 102 kg
   Height: 60 Inch
             Total In:
                                                                  2,935 mL
                                                                  1,120 mL
   PO:
                                                                    750 mL
                                                                    720 mL
   TF:
   IVF:
                                                                  2,185 mL
                                                                    400 mL
   Blood products:
   Total out:
                                                                  3,445 mL
                                                                  1,400 mL
   Urine:
                                                                  3,445 mL
                                                                  1,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -510 mL
                                                                   -280 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , Dullness : right
   base), (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: ), Diffuse pops and squeaks
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   12.2 g/dL
   276 K/uL
   105 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.0 mEq/L
   11 mg/dL
   101 mEq/L
   137 mEq/L
   37.3 %
   5.0 K/uL
        [image002.jpg]
                            [**2134-10-5**]  10:04 AM
                            [**2134-10-5**]  01:27 PM
                            [**2134-10-5**]  09:32 PM
                            [**2134-10-6**]  04:00 AM
                            [**2134-10-6**]  01:17 PM
                            [**2134-10-6**]  06:08 PM
                            [**2134-10-6**]  08:08 PM
                            [**2134-10-6**]  11:53 PM
                            [**2134-10-7**]  06:25 AM
                            [**2134-10-8**]  04:14 AM
   WBC
   4.7
   5.3
   5.4
   5.0
   Hct
   30.0
   29.8
   31.5
   37.3
   Plt
   [**Telephone/Fax (3) 2336**]76
   Cr
   0.9
   0.8
   0.8
   0.7
   TCO2
   28
   26
   29
   32
   32
   30
   Glucose
   97
   80
   125
   105
   Other labs: PT / PTT / INR:13.6/35.2/1.2, CK / CKMB /
   Troponin-T:64/7/0.02, ALT / AST:17/25, Alk Phos / T Bili:113/0.5,
   Differential-Neuts:72.9 %, Lymph:16.1 %, Mono:6.7 %, Eos:3.7 %, Lactic
   Acid:0.6 mmol/L, Albumin:3.6 g/dL, LDH:334 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.6 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR: persistently elevated right hemidiaphragm
   Assessment and Plan
 PNEUMONIA, OTHER
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Doing well post extubation. Continues to have lung sounds that suggest
   bronchiolitis. Switch antibiotics to levofloxacin to complete course.
   Try to wean supplemental oxygen today.
   Mental status greatly improved, although nurses describe occasional
   hallucinations.
   ICU Care
   Nutrition: oral
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-10-8**] 07:59 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes